* /Users/manoelribeiroalmeida/dev/trit/LTspice/TADD.asc
.subckt TADD a b vcc vee cin cout s
XU5 a b vcc vee N001 TXOR
XU6 N001 cin vcc vee s TXOR
XU1 a b vcc vee N003 TAND
XU2 N001 cin vcc vee N002 TAND
XU3 N002 N003 vcc vee cout TXOR
* s1
* s3
* s2
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TAND.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TXOR.sub
.backanno
.ends
